### PR TITLE
[Merged by Bors] - chore(LinearAlgebra): remove `open Classical`

### PR DESCRIPTION
**Pull request by eric-wieser**
This uncovers a few situations where a lemma was stated with the wrong decidability assumption.
The corrected lemmas are strictly more syntactically-general.

This is exhaustive in the `LinearAlgebra` folder.

Where removal is impractical, this switches to `open Classical in` to make the intent clear.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean [hunk 1]
```diff
@@ -93,15 +93,14 @@ theorem finite_set_of_fin_dim_affineIndependent [FiniteDimensional k V] {s : Set
...
-
 variable {k}
 
 /-- The `vectorSpan` of a finite subset of an affinely independent
 family has dimension one less than its cardinality. -/
-theorem AffineIndependent.finrank_vectorSpan_image_finset {p : ι → P} (hi : AffineIndependent k p)
-    {s : Finset ι} {n : ℕ} (hc : Finset.card s = n + 1) :
+theorem AffineIndependent.finrank_vectorSpan_image_finset [DecidableEq P]
+    {p : ι → P} (hi : AffineIndependent k p) {s : Finset ι} {n : ℕ} (hc : Finset.card s = n + 1) :
     finrank k (vectorSpan k (s.image p : Set P)) = n := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean:102]: Many lemmas in this file are missing the `[DecidableEq P]` needed to talk about `finset.image`

File: Mathlib/LinearAlgebra/Charpoly/ToMatrix.lean [hunk 2]
```diff
@@ -38,7 +38,7 @@ section Basic
 
 /-- `charpoly f` is the characteristic polynomial of the matrix of `f` in any basis. -/
 @[simp]
-theorem charpoly_toMatrix {ι : Type w} [Fintype ι] (b : Basis ι R M) :
+theorem charpoly_toMatrix {ι : Type w} [DecidableEq ι] [Fintype ι] (b : Basis ι R M) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Charpoly/ToMatrix.lean:41]: This was a poorly-stated lemma

File: Mathlib/LinearAlgebra/Determinant.lean [hunk 3]
```diff
@@ -181,6 +180,7 @@ protected irreducible_def det : (M →ₗ[A] M) →* A :=
   else 1
 #align linear_map.det LinearMap.det
 
+open Classical in
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Determinant.lean:183]: These ones are unavoidable, but this makes sure that we're honest about the scope

File: Mathlib/LinearAlgebra/Finsupp.lean [hunk 4]
```diff
@@ -180,16 +180,17 @@ theorem span_single_image (s : Set M) (a : α) :
...
     refine' Subset.trans (Subset.trans (Finset.coe_subset.2 support_add) _) (union_subset hp hq)
     rw [Finset.coe_union]
-  · simp only [subset_def, Finset.mem_coe, Set.mem_setOf_eq, mem_support_iff, zero_apply]
+  zero_mem' := by
+    simp only [subset_def, Finset.mem_coe, Set.mem_setOf_eq, mem_support_iff, zero_apply]
     intro h ha
     exact (ha rfl).elim
-  · intro a p hp
-    refine' Subset.trans (Finset.coe_subset.2 support_smul) hp
+  smul_mem' a p hp := Subset.trans (Finset.coe_subset.2 support_smul) hp
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Finsupp.lean:193]: I took the liberty of golfing this since `⟨⟨⟨{` is awful

File: Mathlib/LinearAlgebra/Finsupp.lean [hunk 5]
```diff
@@ -1065,7 +1070,7 @@ theorem Fintype.total_apply (f) : Fintype.total R S v f = ∑ i, f i • v i :=
 #align fintype.total_apply Fintype.total_apply
 
 @[simp]
-theorem Fintype.total_apply_single (i : α) (r : R) :
+theorem Fintype.total_apply_single [DecidableEq α] (i : α) (r : R) :
     Fintype.total R S v (Pi.single i r) = r • v i := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Finsupp.lean:1074]: This argument is needed for `Pi.single`

File: Mathlib/LinearAlgebra/FreeModule/Basic.lean [hunk 6]
```diff
@@ -85,6 +85,10 @@ def ChooseBasisIndex :=
   (exists_basis (R := R) (M := M)).some.1
 #align module.free.choose_basis_index Module.Free.ChooseBasisIndex
 
+/-- There is no hope of computing this, but we add the instance anyway to avoid fumbling with
+`open scoped Classical`. -/
+noncomputable instance : DecidableEq (ChooseBasisIndex R M) := Classical.decEq _
+
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/FreeModule/Basic.lean:91]: Just drawing attention to the fact I adde this. We have a similar noncomputable decidable instance for `Real` since we know there will never be a computable one to compete with.

File: Mathlib/LinearAlgebra/LinearIndependent.lean [hunk 7]
```diff
@@ -160,7 +161,7 @@ theorem Fintype.linearIndependent_iff [Fintype ι] :
 
 /-- A finite family of vectors `v i` is linear independent iff the linear map that sends
 `c : ι → R` to `∑ i, c i • v i` has the trivial kernel. -/
-theorem Fintype.linearIndependent_iff' [Fintype ι] :
+theorem Fintype.linearIndependent_iff' [Fintype ι] [DecidableEq ι] :
     LinearIndependent R v ↔
       LinearMap.ker (LinearMap.lsum R (fun _ ↦ R) ℕ fun i ↦ LinearMap.id.smulRight (v i)) = ⊥ :=
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/LinearIndependent.lean:166]: This one is needed by `lsum`

**Comment by sgouezel** [comment]
bors r+
Thanks a lot for doing this!
